US06136823
Synthesis of 8-Chloro-6-fluoro-1-(4-fluoro-3-hydroxyphenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
8-Chloro-6,7-difluoro-1-(4-fluoro-3-hydroxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (300 mg) and an aqueous solution (about 40%; 600 mg) of methylamine were added to pyridine (1,500 mg), and the mixture was stirred at room temperature for 63 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (3 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Ethanol (4 ml) was added to the resultant residue, and the mixture was heated under reflux for 30 minutes. The reaction mixture was allowed to cool, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (305 mg) as a colorless powder.

reactant | 8-Chloro-6,7-difluoro-1-(4-fluoro-3-hydroxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 300 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=CC(=C(C=C1)F)O)C(=O)O)=O)F)F | C16H7ClF3NO4
reactant | methylamine | 600 mg | CN | CH5N
solvent | pyridine | 1,500 mg | N1=CC=CC=C1 | C5H5N
product | 8-Chloro-6-fluoro-1-(4-fluoro-3-hydroxyphenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 305 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=CC(=C(C=C1)F)O)C(=O)O)=O)F)NC | C17H11ClF2N2O4
